US04980378
Dodecyl chloroacetate (5.5 g, 0.021 mol) was dissolved in 20 ml of ether and the resultant solution was cooled in an ice-bath. Dimethylamine (40 ml, 0.1 M in ether) was added to the cooled solution of dodecyl chloroacetate. The reaction mixture was stirred at room temperature for two hours, then filtered through a filter paper to remove the white solid which formed. The filtrate was concentrated to give a liquid product which was chromatographed through a column of silica gel (60-200 mesh) using ethyl acetate as the eluent. The purity of the fractions was checked by thin layer chromatography. The pure fractions were combined and the solvent was removed by a rotary evaporator under reduced pressure to afford 5.8 g (100% yield) of dodecyl (N,N-dimethylamino)acetate. 1HNMR(CCl4) δ0.83(3H, t, CH3); 1.20[20 H, s, broad, --(CH2)10 ]; 2.23[6H, s, (CH3)2N--]; 3.0 (2H, s, --CH2 --N); 3.93 (2H, t, J=6 Hz, --OCH2 --) νmax (film): 2940,2870,2790 (CH); 1760, 1740(C=O); 1200, 1170 (--C--O--C) cm-1. m/e 271; C16H33NO2 requires 271.

reactant | Dodecyl chloroacetate | 0.021 mol, 5.5 g | ClCC(=O)OCCCCCCCCCCCC | C14H27ClO2
reactant | Dimethylamine | 0.1 M, 40 ml | CNC | C2H7N
solvent | ether | 20 ml | CCOCC | C4H10O
product | dodecyl (N,N-dimethylamino)acetate | 5.8 g, 100% yield | CN(C)CC(=O)OCCCCCCCCCCCC | C16H33NO2
